US07138401B2
Step 1: (2-Fluoro-4,5-dimethoxy-phenyl)-methanol
A solution of 2-fluoro-4,5-dimethoxy-benzaldehyde (6.0 mmol) in MeOH (10 mL) was treated with NaBH4 (1.2 equiv.) at 0–23° C. for 0.5 h. After quenching with acetone and evaporating the solvent, work-up (CH2Cl2), drying (MgSO4) and evaporation gave the title compound as a crude oily product (94% yield). 1H-NMR (CDCl3): δ 6.90–6.88 (d, 1H), 6.61–6.64 (d, 1H), 4.65–4.63 (d, 2H), 3.86 (s, 3H), 3.84 (s, 3H), 2.00–1.94 (t, 1H).

reactant | 2-fluoro-4,5-dimethoxy-benzaldehyde | 6.0 mmol | FC1=C(C=O)C=C(C(=C1)OC)OC | C9H9FO3
reactant | NaBH4 | 1.2 equiv. | [BH4-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | (2-Fluoro-4,5-dimethoxy-phenyl)-methanol | FC1=C(C=C(C(=C1)OC)OC)CO | C9H11FO3
